US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-hydroxyethylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-t-butyldimethylsilyloxyethylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (0.38 gm) in CH2Cl2 (10 ml) at room temperature was added a solution of para-toluene sulfonic acid (0.05 gm) in CH3OH (10 ml). The reaction mixture was stirred for 3 hours until TLC (silica, 2:1, hexanes:ethyl acetate) verified that reaction was complete. The reaction mixture was poured into saturated NaHCO3 and extracted twice with CH2Cl2. The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by chromatography (silica, 2:1 hexanes:ethyl acetate) to provide the title compound 0.245 gm. MASS (FAB)

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-t-butyldimethylsilyloxyethylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.38 gm | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=C(NC1=CC2)C(C)O[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C59H92N2O13Si
reactant | para-toluene sulfonic acid | 0.05 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 10 ml | CO | CH4O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-hydroxyethylindol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.245 gm | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=C(NC1=CC2)C(C)O)OC)C)C)O)=O | C53H78N2O13
